US07622480B2
A. Preparation of 5-{4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidin-1-ylmethyl}-2-methoxy-benzoic acid ethyl ester
This compound was prepared following the procedure described in example 4, part E, starting with 0.73 g (2.67 mmol) of 1-(2-ethoxyethyl)-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine and 0.88 g (3.20 mmol) of 5-bromomethyl-2-methoxybenzoic acid ethyl ester. After standard work-up and purification, 0.38 g (31% of yield) of the expected product were obtained.

reactant | 1-(2-ethoxyethyl)-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine | 2.67 mmol, 0.73 g | C(C)OCCN1C=C(C=2C1=NC=CC2)C2CCNCC2 | C16H23N3O
reactant | 5-bromomethyl-2-methoxybenzoic acid ethyl ester | 3.20 mmol, 0.88 g | C(C)OC(C1=C(C=CC(=C1)CBr)OC)=O | C11H13BrO3
product | 5-{4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidin-1-ylmethyl}-2-methoxy-benzoic acid ethyl ester | C(C)OC(C1=C(C=CC(=C1)CN1CCC(CC1)C1=CN(C2=NC=CC=C21)CCOCC)OC)=O | C27H35N3O4
